US05112998
A 10 weight % solution of sodium hydroxide in methanol (1.16 ml) and 6.36 ml of a 30 weight % solution of hydrogen peroxide in water (containing 62.3 mmoles of hydrogen peroxide) were added to a solution of 4.66 g (11.3 mmoles) of 20-(5,5-dimethyl-1,3-dioxan-2-yl)pregna-1,4,6-trien-3-one in 150 ml of methanol and the mixture was stirred at room temperature for 16 hours. The reaction mixture thus obtained was diluted with water and after the methanol was partially distilled off under reduced pressure at room temperature, the residue was extracted with ether. The extract was washed successively with aqueous potassium iodide solution and aqueous sodium chloride solution and the organic layer was dried over magnesium sulfate. The solvent was then distilled off under reduced pressure and the residue was purified by silica gel chromatography (eluent: ethyl acetate/hexane=1:10, v/v) to recover 3.72 g of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxypregna-4,6-dien-3-one (yield: 77%).

reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
reactant | 20-(5,5-dimethyl-1,3-dioxan-2-yl)pregna-1,4,6-trien-3-one | 11.3 mmoles, 4.66 g | CC1(COC(OC1)C(C)[C@H]1CC[C@H]2[C@@H]3C=CC4=CC(C=C[C@]4(C)[C@H]3CC[C@]12C)=O)C | C27H38O3
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | methanol | 1.16 ml | CO | CH4O
solvent | methanol | 150 ml | CO | CH4O
solvent | water | O | H2O
solvent | water | 62.3 mmoles | O | H2O
product | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxypregna-4,6-dien-3-one | 3.72 g, yield: 77% | CC1(COC(OC1)C(C)[C@H]1CC[C@H]2[C@@H]3C=CC4=CC([C@H]5[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O5)=O)C | C27H38O4
